US09126950B2
To a solution of 3-((3-((2-((4-(2-((tert-butyldimethylsilyl)oxy)ethoxy)phenyl)amino)-5-fluoropyrimidin-4-yl)amino)phenyl)amino)-2-hydroxy-3-oxopropyl methanesulfonate (0.240 g) in THF was added NaH (0.018 g) and the reaction mixture was stirred at room temperature for 30 min. The reaction was monitored on TLC using CHCl3:methanol (9:1) as mobile phase. After completion, the reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was dried over sodium sulfate and the solvent was removed under reduced pressure. The crude material was purified by Combiflash, and the product eluted with 1.6% methanol in CHCl3 to give 0.16 g of N-(3-((2-((4-(2-((tert-butyldimethylsilyl)oxy)ethoxy)phenyl)amino)-5-fluoropyrimidin-4-yl)amino)phenyl)oxirane-2-carboxamide.

reactant | 3-((3-((2-((4-(2-((tert-butyldimethylsilyl)oxy)ethoxy)phenyl)amino)-5-fluoropyrimidin-4-yl)amino)phenyl)amino)-2-hydroxy-3-oxopropyl methanesulfonate | 0.240 g | CS(=O)(=O)OCC(C(=O)NC1=CC(=CC=C1)NC1=NC(=NC=C1F)NC1=CC=C(C=C1)OCCO[Si](C)(C)C(C)(C)C)O | C28H38FN5O7SSi
reactant | NaH | 0.018 g | [H-].[Na+]
reactant | CHCl3 methanol | C(Cl)(Cl)Cl.CO
reactant | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | N-(3-((2-((4-(2-((tert-butyldimethylsilyl)oxy)ethoxy)phenyl)amino)-5-fluoropyrimidin-4-yl)amino)phenyl)oxirane-2-carboxamide | 0.16 g | [Si](C)(C)(C(C)(C)C)OCCOC1=CC=C(C=C1)NC1=NC=C(C(=N1)NC=1C=C(C=CC1)NC(=O)C1OC1)F | C27H34FN5O4Si
